US06180627B2
2-[3-{[3-({2-[(tert-Butoxycarbonyl)amino]ethoxy}methyl)phenethyl]amino}-6-methyl-2-oxo-1(2H)-pyrazinyl]acetic acid
Ammonium formate (425 mg, 6.74 mmol) and 10% palladium on charcoal (200 mg) was added to a solution of benzyl 2-[3-{[3-({2-[(tert-butoxycarbonyl)amino]ethoxy}methyl)phenethyl]amino}-5-chloro-6-methyl-2-oxo-1(2H)-pyrazinyl]acetate (preparation 106) (392 mg, 0.67 mmol) in acetonitrile (10 ml), and the reaction stirred at room temperature overnight. The reaction mixture was filtered through Whatman® fibre, and the filtrate concentrated under reduced pressure. The residue was suspended in dichloromethane, basified using I N NaOH solution, and re-acidified to pH 4, using 1N hydrochloric acid. This solution was extracted with ethyl acetate (3×), and the combined organic extracts dried over MgSO4 and evaporated under reduced pressure to give the title compound as a white foam, (180 mg, 58%).

reactant | Ammonium formate | 6.74 mmol, 425 mg | C(=O)[O-].[NH4+]
reactant | benzyl 2-[3-{[3-({2-[(tert-butoxycarbonyl)amino]ethoxy}methyl)phenethyl]amino}-5-chloro-6-methyl-2-oxo-1(2H)-pyrazinyl]acetate | 0.67 mmol, 392 mg | C(C)(C)(C)OC(=O)NCCOCC=1C=C(CCNC=2C(N(C(=C(N2)Cl)C)CC(=O)OCC2=CC=CC=C2)=O)C=CC1 | C30H37ClN4O6
catalyst | palladium on charcoal | 200 mg | [Pd] | Pd
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2-[3-{[3-({2-[(tert-Butoxycarbonyl)amino]ethoxy}methyl)phenethyl]amino}-6-methyl-2-oxo-1(2H)-pyrazinyl]acetic acid | 180 mg, 58% | C(C)(C)(C)OC(=O)NCCOCC=1C=C(CCNC=2C(N(C(=CN2)C)CC(=O)O)=O)C=CC1 | C23H32N4O6
